US09029560B2
Preparation of (R,Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-yl)urea (FB45)
To (R)-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-amine (CB61) (0.12 g, 0.32 mmol) and sodium bicarbonate (0.10 g, 1.2 mmol) in dichloromethane/water (2:1, 3.1 mL) in an ice bath was added triphosgene (0.052 g, 0.18 mmol). The reaction was quenched with few drops of water and diluted with dichloromethane. The reaction mixture was filtered through phase separator and concentrated. The residue was dissolved in acetonitrile (2 mL) and 1-(2-isopropyl-5-methylphenyl)thiourea (0.069 g, 0.33 mmol) and cesium carbonate (0.14 g, 0.42 mmol) were added in single portions. The reaction was stirred overnight at room temperature. Additional portions of 1-(2-isopropyl-5-methylphenyl)thiourea (0.070 g, 0.33 mmol) and cesium carbonate (0.070 g, 0.21 mmol) were added and the reaction was stirred overnight. Ethanol (4 mL), methyl 2-bromoacetate (0.10 mL, 0.96 mmol), and sodium acetate (0.079 g, 0.96 mmol) were added and the reaction was heated at 60° C. for 6 hours. The reaction was cooled and stirred at room temperature over the weekend. The reaction was diluted with water and extracted with ethyl acetate (2×). The organic layers were dried with sodium sulfate, filtered, and concentrated. Purification by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent provided the title compound as a yellow oil (0.039 g, 19%).

reactant | (R)-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-amine | 0.32 mmol, 0.12 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C[C@@H](C)N)(F)F | C18H17F3N4O
reactant | sodium bicarbonate | 1.2 mmol, 0.10 g | C([O-])(O)=O.[Na+]
reactant | triphosgene | 0.18 mmol, 0.052 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-(2-isopropyl-5-methylphenyl)thiourea | 0.33 mmol, 0.069 g | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)N | C11H16N2S
reactant | cesium carbonate | 0.42 mmol, 0.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-isopropyl-5-methylphenyl)thiourea | 0.33 mmol, 0.070 g | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)N | C11H16N2S
reactant | cesium carbonate | 0.21 mmol, 0.070 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 2-bromoacetate | 0.96 mmol, 0.10 mL | BrCC(=O)OC | C3H5BrO2
reactant | sodium acetate | 0.96 mmol, 0.079 g | C(C)(=O)[O-].[Na+]
solvent | dichloromethane water | 3.1 mL | ClCCl.O
solvent | water | O | H2O
solvent | Ethanol | 4 mL | C(C)O | C2H6O
product | (R,Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-yl)urea | 0.039 g, 19% | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(=O)N[C@@H](CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C | C32H31F3N6O3S
